US04575501
2-[2-(3-chloro-2-tolyl)-hydrazino]-2-thiazoline
A solution of 11.2 g (5% excess) of 2-methylthio-2-thiazoline in 20 ml of isopropanol was added slowly in the course of 30 minutes to a suspension, which was stirred under reflux, of 15.5 g (0.08 mol) of 3-chloro-2-tolyl-hydrazine hydrochloride in 100 ml of isopropanol.

reactant | 2-methylthio-2-thiazoline | 11.2 g | CSC=1SCCN1 | C4H7NS2
reactant | 3-chloro-2-tolyl-hydrazine hydrochloride | 0.08 mol, 15.5 g | Cl.ClC=1C(=C(C=CC1)C)NN
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2-[2-(3-chloro-2-tolyl)-hydrazino]-2-thiazoline | ClC=1C(=C(C=CC1)C)NNC=1SCCN1 | C10H12ClN3S
